US06545017B1
A mixture of tert-butyl 2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethylcarbamate (43.7 g, 117 mmol), triethyl orthoacetate (22.6 mL; 123 mmol), pyridine hydrochloride (4.4 g) and toluene (440 mL) was heated at reflux for 30 minutes. The reaction mixture was concentrated under reduced pressure to provide a brown oil. The oil was dissolved in ethyl acetate (1 L) and washed with water (2×500 mL). The aqueous washes were combined and extracted with ethyl acetate (2×500 mL). The combined organics were washed with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide 46.4 g of tert-butyl 2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethylcarbamate as a white solid, m.p. 180-182° C.

reactant | tert-butyl 2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethylcarbamate | 117 mmol, 43.7 g | NC=1C(=NC(=C(C1NCCNC(OC(C)(C)C)=O)C)C)OC1=CC=CC=C1 | C20H28N4O3
reactant | triethyl orthoacetate | 123 mmol, 22.6 mL | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | pyridine hydrochloride | 4.4 g | Cl.N1=CC=CC=C1
reactant | toluene | 440 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethylcarbamate | 46.4 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCNC(OC(C)(C)C)=O | C22H28N4O3
